Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins / levofloxacin / amoxicillin
 
Attending: ___.
 
Chief Complaint:
CC: ___
 
Major ___ or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with history of IDDMII, 
HTN, HLD, depression/anxiety presenting with dizziness and back 
pain.

The patient is interviewed with the assistance of a ___ 
telephone translator. She reports that she has been feeling 
unwell for several days prior to admission. She reports that she 
has had about 1 week of right lower back pain and dysuria. She 
tried cranberry juice and drinking more water, but this did not 
help. She also reports that her blood sugars have become very 
high, so high that they are reading over her glucometer; she has 
been taking her insulin as prescribed. She reports polyuria and 
polydipsia. She reports that in the days preceding her 
presentation she began to feel dizzy, particularly when get up 
from sitting to walk. 

She denies any fevers or chills. No nausea, vomiting, abdominal 
pain, or diarrhea. Denies chest pain, palpitations, shortness of 
breath. She reports a cough, which has been ongoing for many 
months and is worse at night. 

In the ED, vitals: 97.6 116 110/63 16 95% RA 
Exam notable for: right CVA tenderness, dry mucous membranes, 
poorly localized mild abdominal pain without peritoneal signs 
Labs notable for: Hb 10.5, plt 72, BUN/Cr ___, AG 20; lactate 
5.4->2.1
Imaging: CXR
Patient given: 2L LR, magnesium sulfate 2 gm, insulin gtt, 
insulin SC 4 units, ceftriaxone 1 gm 
On arrival to the floor, the patient reports ongoing right lower 
back pain. She reports that she feels somewhat better than when 
she came to the ED. 

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 

 
Past Medical History:
Past Medical History:
- IDDM
- HTN
- HLD
- asthma
- migraines
- chronic back pain
- depression & anxiety, recent ED evaluation on ___ for SI

Past Surgical History:
___: L salpingo-oophorectomy complicated by sigmoid
perforation
___: Sigmoid  resection,  creation  ___ pouch,
takedown of splenic flexure and sigmoid colostomy.
___: I&D, debridement of abdominal abscess
___: Left colectomy/colostomy closure, takedown splenic
flexure, diverting ileostomy
___: Ileostomy take-down
___: Laparotomy, excision of scar and extensive
adhesiolysis.
___: Ventral hernia repair w/ vicryl mesh
___: Incisional hernia repair w/ mesh
___: Medial L knee meniscectomy
___: R knee meniscectomy
___: R total knee replacement

 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
VITALS: 97.5 168/88 78 18 100 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate; dry
mucous membranes
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation; right CVA
tenderness
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

 
Pertinent Results:
Labs:
___ 10:15AM BLOOD WBC: 4.0 RBC: 3.92 Hgb: 10.5* Hct: 34.9
MCV: 89 MCH: 26.8 MCHC: 30.1* RDW: 14.1 RDWSD: 45.___* 
___ 10:15AM BLOOD Glucose: 409* UreaN: 27* Creat: 1.9* Na:
138 K: 4.3 Cl: 100 HCO3: 18* AnGap: 20* 
___ 10:15AM BLOOD Calcium: 9.3 Phos: 3.5 Mg: 1.2* 
___ 11:17AM BLOOD Lactate: 5.4* 
___ 03:26PM BLOOD Lactate: 2.1* 

U/A: Nit+, ___ large, >182 WBC
Urine cx: 
 URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----   <=1 S

OTHER DATA: 
# CXR (___): No acute cardiopulm process
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o DM2, HTN, HLD, depression/anxiety 
presenting with dizziness and back pain, found to have suspected 
pyelonphritis, ___, and hyperglycemia.

ACUTE/ACTIVE PROBLEMS:
# Suspected pyelonephritis: 
  Ms. ___ was admitted with dysuria, R flank pain, 
positive urinalysis c/f pyelonephritis.  She was initially 
treated with IV CTX - with good symptomatic improvement.  Urine 
cx grew Ecoli - which was sensitive to cephalosporin.  She was 
placed on PO cefpodoxime (allergic to quinolones) and observed 
overnight.  She continued to do well - and was discharged for 8 
additional days to complete a 10 day course. Pain control with 
Tylenol as needed

# Acute kidney injury: Baseline Cr 1.1, admit Cr 1.9. Likely 
pre-renal azotemia in setting of hyperglycemia with osmotic 
diuresis. After hydration, Cr stabilized to 1.3.  She may 
benefit from ___ in setting of diabetes - to be explored as 
an outpt. 

# DM2 with hyperglycemia: She presented with dizziness, 
polyuria, polydipsia, and hyperglycemia in setting of infection 
as above. Elevated lactate.  Although there was an elevated 
anion gap,   U/A ket neg, betahydroxybutyrate 0.3 making DKA 
unlikely.  Metformin, glipizide were held and restarted on 
discharge.  She was continued on Lantus, Humalog with meals, 
hISS. 

# Asthma: Patient with reported history of asthma and has 
chronic
cough. No wheezing on exam. Per pharmacy records, pulmonary
medications have not been filled recently.  Stable during this 
admission. 

CHRONIC/STABLE PROBLEMS:
# Thrombocytopenia
# Anemia: Chronic, stable, thought to be related to NASH

# HTN:
- Continue clonidine

# HLD:
- Continue simvastatin

# Depression/Anxiety:
- Continue venflafaxine, quetiapine, chlorpromazine, dozepin,
clonazepam, clonidine

# GERD: 
- Continue pantoprazole

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: Diabetic
# Functional status: Activity as tolerated
# Bowel Function: As needed
# Lines/Tubes/Drains: PIV
# Precautions: None
# VTE prophylaxis: ___ if plt>50
# Consulting Services: None
# Contacts/HCP/Surrogate and Communication: See OMR
# Code Status/Advance Care Planning: Full presumed
# Disposition:  Home, no services. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
2. Doxepin HCl 100 mg PO HS 
3. Pantoprazole 40 mg PO Q24H 
4. QUEtiapine Fumarate 400 mg PO QHS 
5. Simvastatin 80 mg PO QPM 
6. Venlafaxine XR 300 mg PO QAM 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. GlipiZIDE 10 mg PO DAILY 
9. ClonazePAM 1 mg PO Q8H:PRN anxiety  
10. CloNIDine 0.1 mg PO TID 
11. Glargine 10 Units Bedtime
Novolog 10 Units Breakfast
Novolog 13 Units Lunch
Novolog 13 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
12. ChlorproMAZINE 200 mg PO QHS 
13. Vitamin D ___ UNIT PO 1X/WEEK (___) 
14. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 8 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*16 Tablet Refills:*0 
3.  Glargine 10 Units Bedtime
Novolog 10 Units Breakfast
Novolog 13 Units Lunch
Novolog 13 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  ChlorproMAZINE 200 mg PO QHS  
5.  ClonazePAM 1 mg PO Q8H:PRN anxiety   
6.  CloNIDine 0.1 mg PO TID  
7.  Doxepin HCl 100 mg PO HS  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  GlipiZIDE 10 mg PO DAILY  
10.  MetFORMIN (Glucophage) 1000 mg PO BID  
11.  Pantoprazole 40 mg PO Q24H  
12.  QUEtiapine Fumarate 400 mg PO QHS  
13.  Simvastatin 80 mg PO QPM  
14.  Venlafaxine XR 300 mg PO QAM  
15.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis, UTI 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

   It was a pleasure looking after you.  As you know, you were 
admitted with dizziness and back pain.  You were found to have a 
urinary tract infection which likely involved your kidney as 
well.  This may partly account for your back pain.   You were 
treated with intravenous antibiotics and switched to oral 
antibiotics once the urine cultures identified the bacteria 
(E.coli) and confirmed its sensitivity to the antibiotic you are 
being prescribed.
   
   Please complete the antibiotics (Cefpodoxime) for an 
additional 8 days to complete a 10 day course.  Otherwise, to 
avoid future urinary tract infection, please ensure that you are 
well hydrated and that your diabetes is in good control.  This 
will prevent future urinary tract infections from happening.  

 You were also found to be dehydrated and with mild acute kidney 
injury.  After hydration, your kidney function improved.  Please 
insure good oral intake of fluids and good control of sugars 
(higher sugars can lead to loss of water). 

 You may have a component of musculoskeletal back pain too.  For 
this, we recommend following with your medical doctor and taking 
acetaminophen (Tylenol) as needed. 

There are otherwise, no changes to your medication.  We wish you 
a quick recovery!

Your ___ team. 

 
Followup Instructions:
___